US05752982
1) Synthesis of 2,3-Dimethyl-5-Nitroaniline
363 g of 2,3-xylidine are run into 1.8 l of pure sulphuric acid while the temperature is kept at 40° C. To this solution, cooled to 12° C., a sulphonitric mixture (132 ml of nitric acid (d=1.52) and 180 ml of pure sulphuric acid) is added dropwise over 1 hour, the temperature not exceeding 15° C. After 15 minutes the mixture is poured onto 6 kg of ice with stirring.

reactant | 2,3-xylidine | 363 g | NC1=C(C(=CC=C1)C)C | C8H11N
reactant | nitric acid | 132 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 180 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 1.8 l | S(O)(O)(=O)=O | H2O4S
product | 2,3-Dimethyl-5-Nitroaniline | CC1=C(N)C=C(C=C1C)[N+](=O)[O-] | C8H10N2O2
